US04616084
A mixture of 963 mg (5 mmol) of tert.-butyl 4-benzyloxyacetoacetate and 200 mg of palladium (10% on charcoal) in 50 ml of methanol was stirred at room temperature under a hydrogen atmosphere (1 atmosphere) for 1.5 hours. The catalyst was filtered off washed with a little methylene chloride. The filtrate solution was evaporated in vacuo and the residue was filtered through 3 g of neutral aluminum oxide (methylene chloride). The solvent was evaporated off in vacuo and the oil which remained was dried under a high vacuum. 567 mg (65% of tert.-butyl 4-hydroxyacetoacetate were obtained, and were used immediately for further reactions.

reactant | tert.-butyl 4-benzyloxyacetoacetate | 5 mmol, 963 mg | C(C1=CC=CC=C1)OCC(CC(=O)OC(C)(C)C)=O | C15H20O4
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | 200 mg | [Pd] | Pd
product | tert.-butyl 4-hydroxyacetoacetate | 65% | OCC(CC(=O)OC(C)(C)C)=O | C8H14O4
